US05389687
Preparation of 2-Dimethylamino-8-cyano-1,2,3,4-tetrahydronaphthalene.
8-Cyano-2-tetralone (2 gm, 11.7 mMol) in acetonitrile (30 mL) with dimethylamine hydrochloride (5.72 gm, 70 mMol), sodium acetate (5.76 gm, 70 mMol), sodium cyanoborohydride (520 mg, 8.2 mMol) and 3A molecular sieves (1.2 gm) were stirred together for 4 days at room temperature. The reaction mixture was then diluted with conc. ammonium hydroxide and stirred for 4 hours. This mixture was extracted with dichloromethane. The organic extracts were combined, dried over sodium sulfate and concentrated in vacuo to give a dark oil. Purification on a basic alumina column (Activity I, 2% methanol in dichloromethane) gave a brown oil which was converted to its hydrochloride salt. Recrystallization (methanol/diethyl ether) gave colorless crystals (520 mg, m.p.=229°-230° C.).

reactant | 8-Cyano-2-tetralone | 11.7 mMol, 2 gm | C(#N)C=1C=CC=C2CCC(CC12)=O | C11H9NO
reactant | dimethylamine hydrochloride | 70 mMol, 5.72 gm | Cl.CNC
reactant | sodium acetate | 70 mMol, 5.76 gm | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 8.2 mMol, 520 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 2-Dimethylamino-8-cyano-1,2,3,4-tetrahydronaphthalene | 520 mg | CN(C1CC2=C(C=CC=C2CC1)C#N)C | C13H16N2
